US08067408B2
3′-[(8-Methyl-8-azabicyclo[3.2.1]oct-3-ylidene)methyl]-3-biphenylcarbonitrile
To a solution of 3-[(3-bromophenyl)methylidene]-8-methyl-8-azabicyclo[3.2.1]octane (1.17 g, 4 mmol) in p-dioxane (15 mL) and H2O (5 mL) was added (3-cyanophenyl) boronic acid (0.705 g, 4.80 mmol), Pd(PPh3) (0.185 g, 0.16 mmol), and K2CO3 (1.658 g, 12 mmol) and then the mixture was heated in a microwave oven at 130° C. for 20 min. The organic layer of the reaction mixture was separated, concentrated and purified by Combiflash chromatograph to afford 1.22 g (97%) of the title compound. LC-MS m/z 315 (M+H)+.

reactant | 3-[(3-bromophenyl)methylidene]-8-methyl-8-azabicyclo[3.2.1]octane | 4 mmol, 1.17 g | BrC=1C=C(C=CC1)C=C1CC2CCC(C1)N2C | C15H18BrN
reactant | (3-cyanophenyl) boronic acid | 4.80 mmol, 0.705 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | K2CO3 | 12 mmol, 1.658 g | C(=O)([O-])[O-].[K+].[K+]
solvent | p-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
product | 3′-[(8-Methyl-8-azabicyclo[3.2.1]oct-3-ylidene)methyl]-3-biphenylcarbonitrile | 1.22 g, 97% | CN1C2CC(CC1CC2)=CC=2C=C(C=CC2)C2=CC(=CC=C2)C#N | C22H22N2
